US08497264B2
Aqueous, saturated NaHCO3 solution (7.6 ml, 7.11 mmol) and boc anhydride (3.3 ml, 14.22 mmol) were added to a stirred suspension of 3-bromo-7-iodo-5′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]thiazin]-2′-amine (694 mg, 1.422 mmol) in dioxane (7 ml). The reaction mixture was stirred for 16 h at RT. The reaction mixture was partitioned between EtOAc (50 mL) and water (20 ml). The aqueous layer was separated and extracted with EtOAc (1×10 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified via flash chromatography (0-25% EtOAc/CH2Cl2) to afford tert-butyl (3-bromo-7-iodo-5′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]thiazin]-2′-yl)carbamate a yellow solid.

reactant | NaHCO3 | 7.11 mmol, 7.6 ml | C(=O)(O)[O-].[Na+]
reactant | boc anhydride | 14.22 mmol, 3.3 ml | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-bromo-7-iodo-5′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]thiazin]-2′-amine | 1.422 mmol, 694 mg | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1C21N=C(SCC1)N)I | C15H11BrIN3OS
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | tert-butyl (3-bromo-7-iodo-5′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,4′-[1,3]thiazin]-2′-yl)carbamate | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1C21N=C(SCC1)NC(OC(C)(C)C)=O)I | C20H19BrIN3O3S
